US07456176B2
Synthesis of 4-[7-(3-amino-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide
4-[5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-yl amino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.16 g, 0.3 mmol, 1 equiv) was combined with 10% palladium on carbon (0.135 g) and flushed with argon. The reactants were then diluted with methanol (15 mL), and rthe eaction atmosphere was evacuated and replaced with hydrogen. A hydrogen balloon was affixed and the reaction was allowed to stir for 3 hours. Argon was then bubbled through the reaction mixture and the contents were filtered though a pad of Celite. The solvents were evaporated to provide the product as an orange solid (0.15 g, 98% yield). MS (ESI+): m/z=504.6, LC retention time: 1.84 min. 1H NMR (DMSO-d6): δ 1.64 (bs, 4H), 2.72 (s, 3H), 2.87 (bs, 2H), 5.26 (s, 2H), 6.65 (d, J=7.8 Hz, 1H), 7.00 (d, J=8.1 Hz, 1H), 7.05 (m, 1H), 7.18 (t, J=7.8 Hz, 1H), 7.83 (d, J=8.8 Hz, 2H), 8.12 (s, 1H), 8.21 (d, J=8.8 Hz, 2H), 8.27 (d, J=1.7 Hz, 1H), 11.44 (s, 1H).

reactant | 4-[5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-yl amino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.3 mmol, 0.16 g, 1 equiv | CC1=CC(=CC2=C1N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C2=CC(=CC=C2)[N+](=O)[O-] | C26H27N7O4S
catalyst | palladium on carbon | 0.135 g | [Pd] | Pd
product | 4-[7-(3-amino-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.15 g, 98% yield | NC=1C=C(C=CC1)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C(=C1)C | C26H29N7O2S
